US08349893B2
Borane-dimethyl sulfide complex (1.57 mL, 3.14 mmol) was added dropwise at 0° C. to a solution of (R)-3-tert-butoxycarbonylamino-N,N-dimethyl-succinamic acid benzyl ester (500 mg, 1.43 mmol). The reaction mixture was warmed to room temperature and heated at reflux for 3 hours, then cooled to 0° C. and treated dropwise with 6 M aq. hydrochloric acid solution (0.68 mL, 4.1 mmol). The reaction mixture was allowed to warm to room temperature and concentrated in vacuo. Residual water was azeotroped with toluene and concentrated under high vacuum to afford (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride (384 mg, 87%). White solid, m/e=237.4 ([M+H]+).

reactant | (R)-3-tert-butoxycarbonylamino-N,N-dimethyl-succinamic acid benzyl ester | 1.43 mmol, 500 mg | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N(C)C)NC(=O)OC(C)(C)C)=O | C18H26N2O5
reactant | hydrochloric acid | 4.1 mmol, 6 M, 0.68 mL | Cl | ClH
product | (R)-3-amino-4-dimethylamino-butyric acid benzyl ester dihydrochloride | 384 mg, 87% | Cl.Cl.C(C1=CC=CC=C1)OC(C[C@H](CN(C)C)N)=O | InChI=1S/C13H20N2O2.2ClH/c1-15(2)9-12(14)8-13(16)17-10-11-6-4-3-5-7-11;;/h3-7,12H,8-10,14H2,1-2H3;2*1H/t12-;;/m1../s1
